US07754826B1
N-(bromoacetyl)-2-aminobutyric acid (1).
A solution of bromoacetyl bromide (50 g, 24 mmol 1 molar eq.) in dry THF (500 ml) was slowly added to a 2 L round-bottomed three-neck flask with a mechanical stirrer, a nitrogen gas purge and an addition funnel containing 2-aminobutyric acid (25 g, 24 mmol) in 500 mL dry THF. After stirring at room temperature for 12 hours the reaction mixture was filtered and the THF evaporated from the filtrate gave yellow oil, which crystallized upon cooling in 60% yield. 1H NMR (500 MHz, DMSO d6) δ (ppm): 8.30 (s, 1H), 3.8 (s, 2H), 1.5 (s, 6H). 13C NMR (500 MHz, DMSO d6) δ (ppm): 178, 177, 57, 29, 25. MS (m/z) (%) 224 (30), 208 (20), 178 (99), 121 (40), 88 (65), 58 (100).

reactant | bromoacetyl bromide | 24 mmol, 1 molar, 50 g | BrCC(=O)Br | C2H2Br2O
reactant | 2-aminobutyric acid | 24 mmol, 25 g | NC(C(=O)O)CC | C4H9NO2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | N-(bromoacetyl)-2-aminobutyric acid | 60% yield | BrCC(=O)NC(C(=O)O)CC | C6H10BrNO3
